US04511569
Preparation of 2-(N-acetylamino)-5,6-dihydrobenzo[f]quinolin-3(4H)-one
To 2.0 gm of 2-amino-5,6-dihydrobenzo[f]quinolin-3(4H)-one, in 100 ml of chloroform containing 1 ml of pyridine add 0.80 gm of acetyl chloride. Stir the reaction at room temperature for 5 hours. Filter and wash the solution with water. Remove the solvent by stripping to give the title compound.

reactant | 2-amino-5,6-dihydrobenzo[f]quinolin-3(4H)-one | 2.0 gm | NC=1C(NC=2CCC3=C(C2C1)C=CC=C3)=O | C13H12N2O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.80 gm | C(C)(=O)Cl | C2H3ClO
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(N-acetylamino)-5,6-dihydrobenzo[f]quinolin-3(4H)-one | C(C)(=O)NC=1C(NC=2CCC3=C(C2C1)C=CC=C3)=O | C15H14N2O2
